* source GP_4BIT_BLOCK
M_PG3_P_M104         PG3_P_OUT1_XNOR PG3_P_IN2_INV PG3_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_P_M6         PG3_P_IN2_INV IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_P_M3         PG3_P_OUT1_XNOR IN1_A0_PG4BIT PG3_P_N14660 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_P_M101         PG3_P_N14272 PG3_P_IN1_INV VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_P_M9         PG3_P_IN1_INV IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_P_M107         OUT_P3_PG4BIT PG3_P_OUT1_XNOR VCC_PG4BIT VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_P_M108         OUT_P3_PG4BIT PG3_P_OUT1_XNOR 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_P_M102         PG3_P_N14272 IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_P_M2         PG3_P_N14654 IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_P_M105         PG3_P_OUT1_XNOR IN1_A0_PG4BIT PG3_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_P_M1         PG3_P_OUT1_XNOR PG3_P_IN1_INV PG3_P_N14654 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_P_M5         PG3_P_IN1_INV IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_P_M106         PG3_P_IN2_INV IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_PG3_P_M4         PG3_P_N14660 PG3_P_IN2_INV 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_G_M6         PG3_G_A_NAND_B IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_G_M2         PG3_G_N03392 IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_G_M3         OUT_G3_PG4BIT PG3_G_A_NAND_B 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG3_G_M4         OUT_G3_PG4BIT PG3_G_A_NAND_B VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_G_M5         PG3_G_A_NAND_B IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG3_G_M1         PG3_G_A_NAND_B IN2_B0_PG4BIT PG3_G_N03392 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_P_M104         PG1_P_OUT1_XNOR PG1_P_IN2_INV PG1_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_P_M6         PG1_P_IN2_INV IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_P_M3         PG1_P_OUT1_XNOR IN1_A0_PG4BIT PG1_P_N14660 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_P_M101         PG1_P_N14272 PG1_P_IN1_INV VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_P_M9         PG1_P_IN1_INV IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_P_M107         OUT_P1_PG4BIT PG1_P_OUT1_XNOR VCC_PG4BIT VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_P_M108         OUT_P1_PG4BIT PG1_P_OUT1_XNOR 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_P_M102         PG1_P_N14272 IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_P_M2         PG1_P_N14654 IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_P_M105         PG1_P_OUT1_XNOR IN1_A0_PG4BIT PG1_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_P_M1         PG1_P_OUT1_XNOR PG1_P_IN1_INV PG1_P_N14654 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_P_M5         PG1_P_IN1_INV IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_P_M106         PG1_P_IN2_INV IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_PG1_P_M4         PG1_P_N14660 PG1_P_IN2_INV 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_G_M6         PG1_G_A_NAND_B IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_G_M2         PG1_G_N03392 IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_G_M3         OUT_G1_PG4BIT PG1_G_A_NAND_B 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG1_G_M4         OUT_G1_PG4BIT PG1_G_A_NAND_B VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_G_M5         PG1_G_A_NAND_B IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG1_G_M1         PG1_G_A_NAND_B IN2_B0_PG4BIT PG1_G_N03392 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_P_M104         PG2_P_OUT1_XNOR PG2_P_IN2_INV PG2_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_P_M6         PG2_P_IN2_INV IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_P_M3         PG2_P_OUT1_XNOR IN1_A0_PG4BIT PG2_P_N14660 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_P_M101         PG2_P_N14272 PG2_P_IN1_INV VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_P_M9         PG2_P_IN1_INV IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_P_M107         OUT_P2_PG4BIT PG2_P_OUT1_XNOR VCC_PG4BIT VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_P_M108         OUT_P2_PG4BIT PG2_P_OUT1_XNOR 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_P_M102         PG2_P_N14272 IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_P_M2         PG2_P_N14654 IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_P_M105         PG2_P_OUT1_XNOR IN1_A0_PG4BIT PG2_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_P_M1         PG2_P_OUT1_XNOR PG2_P_IN1_INV PG2_P_N14654 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_P_M5         PG2_P_IN1_INV IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_P_M106         PG2_P_IN2_INV IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_PG2_P_M4         PG2_P_N14660 PG2_P_IN2_INV 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_G_M6         PG2_G_A_NAND_B IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_G_M2         PG2_G_N03392 IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_G_M3         OUT_G2_PG4BIT PG2_G_A_NAND_B 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG2_G_M4         OUT_G2_PG4BIT PG2_G_A_NAND_B VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_G_M5         PG2_G_A_NAND_B IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG2_G_M1         PG2_G_A_NAND_B IN2_B0_PG4BIT PG2_G_N03392 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_P_M104         PG0_P_OUT1_XNOR PG0_P_IN2_INV PG0_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_P_M6         PG0_P_IN2_INV IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_P_M3         PG0_P_OUT1_XNOR IN1_A0_PG4BIT PG0_P_N14660 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_P_M101         PG0_P_N14272 PG0_P_IN1_INV VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_P_M9         PG0_P_IN1_INV IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_P_M107         OUT_P0_PG4BIT PG0_P_OUT1_XNOR VCC_PG4BIT VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_P_M108         OUT_P0_PG4BIT PG0_P_OUT1_XNOR 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_P_M102         PG0_P_N14272 IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_P_M2         PG0_P_N14654 IN2_B0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_P_M105         PG0_P_OUT1_XNOR IN1_A0_PG4BIT PG0_P_N14272 VCC_PG4BIT
+  MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_P_M1         PG0_P_OUT1_XNOR PG0_P_IN1_INV PG0_P_N14654 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_P_M5         PG0_P_IN1_INV IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_P_M106         PG0_P_IN2_INV IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP 
+  
+ L=2e-6  
+ W=9e-6         
M_PG0_P_M4         PG0_P_N14660 PG0_P_IN2_INV 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_G_M6         PG0_G_A_NAND_B IN2_B0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_G_M2         PG0_G_N03392 IN1_A0_PG4BIT 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_G_M3         OUT_G0_PG4BIT PG0_G_A_NAND_B 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_PG0_G_M4         OUT_G0_PG4BIT PG0_G_A_NAND_B VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_G_M5         PG0_G_A_NAND_B IN1_A0_PG4BIT VCC_PG4BIT VCC_PG4BIT MbreakP  
+ L=2e-6  
+ W=9e-6         
M_PG0_G_M1         PG0_G_A_NAND_B IN2_B0_PG4BIT PG0_G_N03392 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
V_V1         VCC_PG4BIT 0 5Vdc
V_VB         IN2_B0_PG4BIT 0  
+PWL 0ns 0V 100ns 0V 100.1ns 0V 300ns 0V 300.1ns 5V 400ns 5V 
V_VA         IN1_A0_PG4BIT 0  
+PWL 0ns 0V 200ns 0V 200.1ns 5V 400ns 5V 
