* source ALU
.EXTERNAL INPUT A0
.EXTERNAL INPUT A1
.EXTERNAL INPUT A2
.EXTERNAL INPUT A3
.EXTERNAL INPUT A4
.EXTERNAL INPUT A5
.EXTERNAL INPUT A6
.EXTERNAL OUTPUT A1_INV
.EXTERNAL OUTPUT A3_INV
.EXTERNAL OUTPUT A5_INV
.EXTERNAL OUTPUT A7_INV
.EXTERNAL INPUT VDC
.EXTERNAL OUTPUT A0_INV
.EXTERNAL OUTPUT A2_INV
.EXTERNAL OUTPUT A4_INV
.EXTERNAL OUTPUT A6_INV
.EXTERNAL INPUT GND
M_INVERTER_UNIT1_M9         A0_INV A0 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT1_M11         A0_INV A0 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_INVERTER_UNIT2_M9         A1_INV A1 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT2_M11         A1_INV A1 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_INVERTER_UNIT8_M9         A7_INV A6 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT8_M11         A7_INV A6 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_INVERTER_UNIT4_M9         A3_INV A3 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT4_M11         A3_INV A3 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_INVERTER_UNIT7_M9         A6_INV A6 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT7_M11         A6_INV A6 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_INVERTER_UNIT6_M9         A5_INV A5 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT6_M11         A5_INV A5 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_INVERTER_UNIT3_M9         A2_INV A2 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT3_M11         A2_INV A2 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
M_INVERTER_UNIT5_M9         A4_INV A4 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_INVERTER_UNIT5_M11         A4_INV A4 GND GND MbreakN  
+ L=2e-6  
+ W=3e-6         
