* source GP_4BIT_BLOCK
M_G0_M2         G0_N03392 A0 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_G0_M1         G0_A_NAND_B B0 G0_N03392 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_G0_M3         G0 G0_A_NAND_B 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_G0_M4         G0 G0_A_NAND_B VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_G0_M6         G0_A_NAND_B B0 VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_G0_M5         G0_A_NAND_B A0 VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_P0_M105         P0_OUT1_XNOR A0 P0_N14272 VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_P0_M102         P0_N14272 B0 VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_P0_M106         P0_IN2_INV B0 VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_P0_M1         P0_OUT1_XNOR P0_IN1_INV P0_N14654 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_P0_M101         P0_N14272 P0_IN1_INV VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_P0_M4         P0_N14660 P0_IN2_INV 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_P0_M3         P0_OUT1_XNOR A0 P0_N14660 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_P0_M108         P0 P0_OUT1_XNOR 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_P0_M6         P0_IN2_INV B0 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_P0_M107         P0 P0_OUT1_XNOR VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_P0_M2         P0_N14654 B0 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_P0_M5         P0_IN1_INV A0 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_P0_M104         P0_OUT1_XNOR P0_IN2_INV P0_N14272 VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
M_P0_M9         P0_IN1_INV A0 VCC_PG VCC_PG MbreakP  
+ L=2e-6  
+ W=9e-6         
V_V1         VCC_PG 0 5Vdc
V_V5         B0 0  
+PWL 0ns 0V 100ns 0V 100ns 5V 200ns 5V 200.1ns 0V 300ns 0V 300ns 5V 400ns 5V 
V_V6         A0 0  
+PWL 0ns 0V 100ns 0V 100.1ns 0V 200ns 0V 200.1ns 5V 300ns 5V 300.1ns 5V 400ns
+  5V 
