* source ALU
M_DUT_AND3_M5         DUT_AND3_N05774 VA VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_DUT_AND3_M3         OUT DUT_AND3_N05774 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_DUT_AND3_M1         DUT_AND3_N05774 VB DUT_AND3_N05922 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_DUT_AND3_M7         DUT_AND3_N07754 VC 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_DUT_AND3_M2         DUT_AND3_N05922 VA DUT_AND3_N07754 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_DUT_AND3_M4         OUT DUT_AND3_N05774 VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_DUT_AND3_M8         DUT_AND3_N05774 VC VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
M_DUT_AND3_M6         DUT_AND3_N05774 VB VDC VDC MbreakP  
+ L=2e-6  
+ W=9e-6         
V_TB_3SIG_V4         VC 0  
+PWL 0ns 0V 100ns 0V 100.1ns 0V 200ns 0V 200.1ns 0V 300ns 0V 300.1ns 5V 400ns
+  5V 400.1ns 5V 500ns 5V 
V_TB_3SIG_V1         VDC 0 5Vdc
V_TB_3SIG_V3         VB 0  
+PWL 0ns 0V 100ns 0V 100.1ns 0V 200ns 0V 200.1ns 5V 300ns 5V 300.1ns 5V 400ns
+  5V 400.1ns 0V 500ns 0V 
V_TB_3SIG_V2         VA 0  
+PWL 0ns 0V 100ns 0V 100.1ns 5V 200ns 5V 200.1ns 0V 300ns 0V 300.1ns 5V 400ns
+  5V 400.1ns 0V 500ns 0V 
