* source MUX16X1
M_M2         Y S_INV A A MbreakP  
+ L=2e-6  
+ W=9e-6         
M_M1         A S Y Y MbreakN  
+ L=2e-6  
+ W=3e-6         
M_M11         S_INV S 0 0 MbreakN  
+ L=2e-6  
+ W=3e-6         
M_M9         S_INV S VDC_INVERT VDC_INVERT MbreakP  
+ L=2e-6  
+ W=9e-6         
V_V1         VDC_INVERT 0 5Vdc
V_V3         S 0  
+PWL 0ns 0V 100ns 0V 100.1ns 0V 200ns 0V 200.1ns 5V 300ns 5V 300.1ns 5V 400ns
+  5V 
V_V2         A 0  
+PWL 0ns 0V 100ns 0V 100.1ns 5V 200ns 5V 200.1ns 0V 300ns 0V 300.1ns 5V 400ns
+  5V 
